US07691867B2
A mixture of tert-butyl 4-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-3-oxopiperazine-1-carboxylate (3.4 g, 9.50 mmol) and hydrogen chloride (15 ml of a 4M solution in 1,4-dioxane) in 1,4-dioxane (10 ml) was stirred at room temperature for 4 hour and then the mixture was evaporated. The residue was dissolved in a mixture of 5% methanol in dichloromethane (30 ml), basified with a 7N solution of ammonia in methanol and then filtered. The filtrate was evaporated and the residue was purified by silica gel chromatography eluting with 10% methanol in dichloromethane containing 0-5% 7M ammonia in methanol to give 1-(2-hydroxyethyl)piperazin-2-one (0.708 g, 57% yield) as a pale yellow oil.

reactant | tert-butyl 4-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-3-oxopiperazine-1-carboxylate | 9.50 mmol, 3.4 g | [Si](C)(C)(C(C)(C)C)OCCN1C(CN(CC1)C(=O)OC(C)(C)C)=O | C17H34N2O4Si
reactant | hydrogen chloride | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 1-(2-hydroxyethyl)piperazin-2-one | 0.708 g, 57% yield | OCCN1C(CNCC1)=O | C6H12N2O2
